US06348474B1
4-(4-Phenylphenyloxy)-6-quinolinecarboxylic acid
60% Sodium hydride (38 mg) was suspended in dimethylimidazolinone (1 ml). 4-Phenylphenol (160 mg) was added while stirring under water-cooling, and the mixture was stirred under water-cooling for 0.5 hr. Methyl 4-bromo-6-quinolinecarboxylate (100 mg) was added under water-cooling and the mixture was stirred at 100° C. for 5 hr, and then at 140° C. for 3 hr. Water (10 ml) was added to the reaction mixture and the mixture was extracted once with ethyl acetate. The aqueous layer was made adjusted to pH 4 with 1N hydrochloric acid and the resulting solid was collected by filtration to give the object compound (73 mg) as a pale brown powder.

reactant | Sodium hydride | 38 mg | [H-].[Na+]
reactant | 4-Phenylphenol | 160 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | Methyl 4-bromo-6-quinolinecarboxylate | 100 mg | BrC1=CC=NC2=CC=C(C=C12)C(=O)OC | C11H8BrNO2
reactant | Water | 10 ml | O | H2O
solvent | dimethylimidazolinone | 1 ml | CC1(C(N=CN1)=O)C | C5H8N2O
product | 4-(4-Phenylphenyloxy)-6-quinolinecarboxylic acid | 73 mg | C1(=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=NC2=CC=C(C=C12)C(=O)O | C22H15NO3
